US04518597
6-(4-Phenylmercapto-butoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy-4,4-diethyl-4H-3,1-benzoxazin-2-one and thiophenol.

reactant | 4-chlorobutoxy-4,4-diethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC1=CC=CC2=C1C(OC(N2)=O)(CC)CC | C16H22ClNO3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 6-(4-Phenylmercapto-butoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C22H27NO3S
